US08871753B2
Step D: Methyl (7-iodo-5-nitro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate
A solution of 7-iodo-5-nitro-1,3-benzoxazol-2(3H)-one (1.6 g, 5.3 mmol) in N,N-dimethylformamide (11 mL) at 0° C. was treated with potassium carbonate (1.2 g, 8.4 mmol) followed by methyl bromoacetate (0.75 mL, 7.9 mmol) and stirred at 20° C. for 2 h. The reaction mixture was added dropwise to a solution of 1M HCl (100 mL) at 0° C. and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to give a crude solid. This material was washed with cold methanol to give the desired product (1.6 g, 79%) as a solid. LCMS for C10H81N2O6 (M+H)+: m/z=378.8.

reactant | 7-iodo-5-nitro-1,3-benzoxazol-2(3H)-one | 5.3 mmol, 1.6 g | IC1=CC(=CC=2NC(OC21)=O)[N+](=O)[O-] | C7H3IN2O4
reactant | potassium carbonate | 8.4 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 7.9 mmol, 0.75 mL | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
product | Methyl (7-iodo-5-nitro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate | 1.6 g, 79% | IC1=CC(=CC=2N(C(OC21)=O)CC(=O)OC)[N+](=O)[O-] | C10H7IN2O6
